US07713993B2
Synthesis of 1-amino-3-(3,4,5-trifluorophenyl)piperidin-2-one hydrochloride
A solution of 4 N hydrochloric acid in ethyl acetate (1 mL) was added to a solution of tert-butyl[2-oxo-3-(3,4,5-trifluorophenyl)piperidin-1-yl]carbamate (134 mg) in chloroform (1 mL), and the reaction solution was stirred at room temperature for three hours. The reaction solution was concentrated under reduced pressure to obtain 109 mg of the title compound. The property value of the compound is as follows.

reactant | hydrochloric acid | 4 N | Cl | ClH
reactant | tert-butyl[2-oxo-3-(3,4,5-trifluorophenyl)piperidin-1-yl]carbamate | 134 mg | C(C)(C)(C)OC(NN1C(C(CCC1)C1=CC(=C(C(=C1)F)F)F)=O)=O | C16H19F3N2O3
solvent | ethyl acetate | 1 mL | C(C)(=O)OCC | C4H8O2
solvent | chloroform | 1 mL | C(Cl)(Cl)Cl | CHCl3
product | 1-amino-3-(3,4,5-trifluorophenyl)piperidin-2-one hydrochloride | 109 mg | Cl.NN1C(C(CCC1)C1=CC(=C(C(=C1)F)F)F)=O | InChI=1S/C11H11F3N2O.ClH/c12-8-4-6(5-9(13)10(8)14)7-2-1-3-16(15)11(7)17;/h4-5,7H,1-3,15H2;1H
